US04480101
Gaseous difluorochloromethane is introduced for 11/2 hours at 60° to 65° C. into a suspension of 7.8 g of 2-amino-4-mercapto-6-methoxy-pyrimidine and 30 ml of concentrated sodium hydroxide solution in 100 ml of dioxane. By the addition of water, extraction with ethyl acetate, concentration of the organic phase by evaporation and crystallisation from methanol at -78° C., there are obtained 6.4 g of 2-amino-4-difluoromethylthio-6-methoxy-pyrimidine, m.p. 83° to 84° C. (compound No. 1.13).

reactant | difluorochloromethane | FC(Cl)F | CHClF2
reactant | 2-amino-4-mercapto-6-methoxy-pyrimidine | 7.8 g | NC1=NC(=CC(=N1)S)OC | C5H7N3OS
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-amino-4-difluoromethylthio-6-methoxy-pyrimidine | 6.4 g | NC1=NC(=CC(=N1)SC(F)F)OC | C6H7F2N3OS
